US04812164
using isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and propargy alcohol with pyridine there is obtained isopropyl 2-chloro-4-fluoro-5-[5-fluoro-6-oxo-2-(2-propynyloxy)-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate, 1H-NMR (CDCl3, 400 MHz): 7.85 ppm (d,1H), 7.43 ppm (d,1H), 5.27 ppm (m,1H), 5.01 ppm (d,2H), 2.54 ppm (t,1H), 1.39 ppm (d,3H), 1.38 ppm (d,3H);

reactant | isopropyl 2-chloro-5-[2-chloro-5-fluoro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(F)(F)F)Cl | C15H9Cl2F5N2O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | isopropyl 2-chloro-4-fluoro-5-[5-fluoro-6-oxo-2-(2-propynyloxy)-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=C(C1=O)F)C(F)(F)F)OCC#C | C18H12ClF5N2O4
